US04709049
A suspension of 5-(N-acetylamino)-2-chloro-4-fluorophenylthioacetic acid (89.8 g) in a 10 % aqueous hydrochloric acid solution was refluxed for 2 hours under heating. After being allowed to cool, an aqueous solution of sodium hydroxide was added to make the suspension at pH 4. After ice-cooling, the precipitated crystals were collected by filteration, washed with ice-water and dried to give 55.0 g of 5-amino-2-chloro-4-fluorophenylthioacetic acid.

reactant | 5-(N-acetylamino)-2-chloro-4-fluorophenylthioacetic acid | 89.8 g | C(C)(=O)NC=1C(=CC(=C(C1)CC(=S)O)Cl)F | C10H9ClFNO2S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-amino-2-chloro-4-fluorophenylthioacetic acid | 55.0 g | NC=1C(=CC(=C(C1)CC(=S)O)Cl)F | C8H7ClFNOS
